US07449582B2
2-(2,6-Dichloro-4-nitro-phenyl)-N-(3-formyl-pyridin-4-yl)-acetamide (3.0 g, 8.47 mmol) is dissolved in dry methanol (240 mL). Na2CO3 (1.80 g, 16.94 mmol) is added. The reaction is refluxed for 30 minutes, diluted by ethyl acetate (210 mL) and filtered. The solvents are evaporated to give crude product, which is recrystallized by ethyl acetate/hexanes to give 3-(2,6-dichloro-4-nitro-phenyl)-1H-[1,6]-naphthyridin-2-one as a slightly yellow solid (3.07 g).

reactant | 2-(2,6-Dichloro-4-nitro-phenyl)-N-(3-formyl-pyridin-4-yl)-acetamide | 8.47 mmol, 3.0 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)CC(=O)NC1=C(C=NC=C1)C=O | C14H9Cl2N3O4
reactant | Na2CO3 | 16.94 mmol, 1.80 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | 210 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 240 mL | CO | CH4O
product | 3-(2,6-dichloro-4-nitro-phenyl)-1H-[1,6]-naphthyridin-2-one | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)C=1C(NC2=CC=NC=C2C1)=O | C14H7Cl2N3O3
